US05346914
To a solution of 4-(3-aminophenyl)-4-hydroxytetrahydropyran (630 mg, 3.26 mmol), prepared as in step 3, in dry DMF (13 mL) was added sodium hydride (326 mg of a 60% oil dispersion). The reaction was stirred at ambient temperature for 1 hour and then methyl iodide (0.24 mL, 3.19 mmol) was added neat. The resulting solution was stirred at ambient temperature for 0.5 hour and quenched with saturated aqueous ammonium chloride. The biphasic solution was extracted with ethyl acetate. The organic layer was washed (1x, saturated aqueous ammonium chloride; 2x, brine), dried (MgSO4), and concentrated in vacuo to provide an oil. Chromatography on silica gel with 20% ethyl acetate/hexanes as the eluant provided 4-(3-aminophenyl)-4-methoxytetrahydropyran as a beige solid (510 mg, 76%). mp 99.0°-100.5° C. 1H NMR (300 MHz, CDCl3) δ7.17 (1H, t, J=9 Hz), 6.73-6.82 (2H, m), 6.62 (1H, ddd, J=9, 2, 1 Hz), 3.85 (2H, td, J=10.5, 10.5, 2.5 Hz), 3.81 (2H, ddd, J=10.5, 9, 3 Hz), 2.99 (3H, s), 1.87-2.07 (4H, m). MS m/e 207 (M)+, 225 (M+NH4)+.

reactant | 4-(3-aminophenyl)-4-hydroxytetrahydropyran | 3.26 mmol, 630 mg | NC=1C=C(C=CC1)C1(CCOCC1)O | C11H15NO2
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 3.19 mmol, 0.24 mL | CI | CH3I
solvent | DMF | 13 mL | CN(C)C=O | C3H7NO
product | 4-(3-aminophenyl)-4-methoxytetrahydropyran | 510 mg, 76% | NC=1C=C(C=CC1)C1(CCOCC1)OC | C12H17NO2
